US08138175B2
B) 4-(4-Amino-3-trifluoromethyl-phenyl)-3-methyl-piperazin-2-one
A solution of 3-methyl-4-(4-nitro-3-trifluoromethyl-phenyl)-piperazin-2-one (118 mg, 0.39 mmol) in MeOH (2 mL) was stirred at RT under a hydrogen atmosphere (1 bar) in the presence of palladium (10% on activated charcoal, 20 mg), then after 45 min insoluble material was removed by filtration through diatomaceous earth. The filtrate was evaporated to afford the title compound (98 mg, 92%). Light yellow viscous oil, MS: 274.1 (M+H)+.

reactant | 3-methyl-4-(4-nitro-3-trifluoromethyl-phenyl)-piperazin-2-one | 0.39 mmol, 118 mg | CC1C(NCCN1C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O | C12H12F3N3O3
solvent | MeOH | 2 mL | CO | CH4O
catalyst | palladium | 20 mg | [Pd] | Pd
product | 4-(4-Amino-3-trifluoromethyl-phenyl)-3-methyl-piperazin-2-one | 98 mg, 92% | NC1=C(C=C(C=C1)N1C(C(NCC1)=O)C)C(F)(F)F | C12H14F3N3O
